US05962437
C. 3-Dodecyloxy-2-decyloxy-1-triphenylmethoxypropane
The trityl ether of Section B (13.5 g, 0.027 mol) was added dropwise to an ice-cooled suspension of sodium hydride (80%, 1.6 g, 0.054 mol) in 150 mL of tetrahydrofuran under nitrogen. After stirring for 2 hours at room temperature, heat was applied (55° C.). 1-Bromodecane (6 g, 0.027 mol) was added dropwise; heating was continued for 6 hours. After cooling for 3 hours, water was added slowly. Diethyl ether (2×100 mL) was added, and the solution washed with 15 percent sodium thiosulfite, water, and brine. After drying over sodium sulfate, the ether was removed, and the residue was chromatographed with a gradient of hexanes:ethyl acetate (100:0 to 20:1) to give 9 g (52%) of a clear liquid.

reactant | trityl ether | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)OC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C38H30O
reactant | sodium hydride | 0.054 mol, 1.6 g | [H-].[Na+]
reactant | 1-Bromodecane | 0.027 mol, 6 g | BrCCCCCCCCCC | C10H21Br
reactant | water | O | H2O
reactant | Diethyl ether | 100 mL | C(C)OCC | C4H10O
solvent | tetrahydrofuran | 150 mL | O1CCCC1 | C4H8O
product | 3-Dodecyloxy-2-decyloxy-1-triphenylmethoxypropane | 9 g, 52% | C(CCCCCCCCCCC)OCC(COC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)OCCCCCCCCCC | C44H66O3
